US04031099
b. 4-Hydroxy-5,6,7,8-tetrahydrocarbostyril
A suspension of 3-carboethoxy-4-hydroxy-5,6,7,8-tetrahydro-carbostyril (19.4g; 0.082 mole) in 2N hydrochloric acid (200 ml) was refluxed 30 hrs. and the clear solution evaporated to dryness. Water was added and the solution brought to pH 4.0 with dilute sodium hydroxide solution. The precipitated white product was filtered off, washed well with water and recrystallised from glacial acetic acid, m.p. >330° C.

reactant | 3-carboethoxy-4-hydroxy-5,6,7,8-tetrahydro-carbostyril | 0.082 mole, 19.4g | C(=O)(OCC)C=1C(NC=2CCCCC2C1O)=O | C12H15NO4
solvent | hydrochloric acid | 2N, 200 ml | Cl | ClH
product | 4-Hydroxy-5,6,7,8-tetrahydrocarbostyril | OC1=CC(NC=2CCCCC12)=O | C9H11NO2
